US06518257B1
(ii) Production of [4′-[1-hydroxy-(1H-imidazol-4-yl)butyl]-N-methyl[1,1′-biphenyl]-3-carboxamide
By the reaction in the same manner as in Example 41-(ii) using [4′-[1-hydroxy-(1-trityl-1H-imidazol-4-yl)-3-butenyl]-N-methyl[1,1′-biphenyl]-3-carboxamide (690 mg), 10% palladium carbon (690 mg) and 1N hydrochloric acid (1.17 ml), the colorless amorphous title compound (269 mg) was obtained. The colorless amorphous title compound (420 mg) was obtained.

reactant | 4′-[1-hydroxy-(1-trityl-1H-imidazol-4-yl)-3-butenyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 690 mg | OC(CC=CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC | C40H35N3O2
reactant | hydrochloric acid | 1N, 1.17 ml | Cl | ClH
catalyst | palladium carbon | 690 mg | [C].[Pd]
product | 4′-[1-hydroxy-(1H-imidazol-4-yl)butyl]-N-methyl[1,1′-biphenyl]-3-carboxamide | 269 mg | OC(CCCC=1N=CNC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)NC | C21H23N3O2
